US06121308
2-[N-(4-Amidinophenyl)-aminomethyl]-6-[N-(ethoxycarbonyl-methyl)-quinoline-8-sulphonylamino]-imidazo[1,2-a]pyridine
Prepared analogously to Example 1e from 2-[N-(4-cyanophenyl)-aminomethyl]-6-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-imidazo[1,2-a]pyridine and ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 2-[N-(4-cyanophenyl)-aminomethyl]-6-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino]-imidazo[1,2-a]pyridine | C(#N)C1=CC=C(C=C1)NCC=1N=C2N(C=C(C=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C3C=CC=NC23)C1 | C28H24N6O4S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[N-(4-Amidinophenyl)-aminomethyl]-6-[N-(ethoxycarbonyl-methyl)-quinoline-8-sulphonylamino]-imidazo[1,2-a]pyridine | C(N)(=N)C1=CC=C(C=C1)NCC=1N=C2N(C=C(C=C2)N(CC(=O)OCC)S(=O)(=O)C=2C=CC=C3C=CC=NC23)C1 | C28H27N7O4S
